US06734184B1
A solution of 3-acetylthio-2-isobutylpropionic acid [obtained by Michael addition of thiolacetic acid onto 2-isobutylacrylic acid] (7 g, 34.3 mmol), benzyl bromide (4.29 ml, 36 mmol) and DBU (5.2 ml, 35 mmol) in toluene (55 ml) was stirred for 18 hours at room temperature. The solvents were evaporated in vacuo. The residue was partitioned between ethyl acetate and 5% sodium bicarbonate. The organic layer was washed with brine and dried over MgSO4. Purification of the residue by chromatography on silica gel (eluant: dichloromethane-ether (9:1)) gave benzyl 3-acetylthio-2-isobutylpropionate (8.4 g).

reactant | 3-acetylthio-2-isobutylpropionic acid | 34.3 mmol, 7 g | C(C)(=O)SCC(C(=O)O)CC(C)C | C9H16O3S
reactant | benzyl bromide | 36 mmol, 4.29 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | DBU | 35 mmol, 5.2 ml | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | toluene | 55 ml | C1(=CC=CC=C1)C | C7H8
product | benzyl 3-acetylthio-2-isobutylpropionate | 8.4 g | C(C)(=O)SCC(C(=O)OCC1=CC=CC=C1)CC(C)C | C16H22O3S
